US07612114B2
6-{6-{[4-(3-Azepan-1-ylpropyl)benzyl]ethylamino}benzo[1,3]dioxol-5-yl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-(6-ethylaminobenzo[1,3]dioxol-5-yl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (40 mg) and 4-(3-azepan-1-ylpropyl)benzoic acid hydrochloride (80 mg) according to an analogous synthetic method to Example 337 described below, the title compound (32 mg) was obtained.

reactant | pivalic acid 6-(6-ethylaminobenzo[1,3]dioxol-5-yl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 40 mg | C(C)NC=1C(=CC2=C(OCO2)C1)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H29NO4
reactant | 4-(3-azepan-1-ylpropyl)benzoic acid hydrochloride | 80 mg | Cl.N1(CCCCCC1)CCCC1=CC=C(C(=O)O)C=C1
product | 6-{6-{[4-(3-Azepan-1-ylpropyl)benzyl]ethylamino}benzo[1,3]dioxol-5-yl}-5,6,7,8-tetrahydronaphthalen-2-ol | 32 mg | N1(CCCCCC1)CCCC1=CC=C(CCCNC=2C(=CC3=C(OCO3)C2)C2CC=3C=CC(=CC3CC2)O)C=C1 | C35H44N2O3
